US07067658B2
To a solution of 2-benzyloxy-4-chloro-3-nitro-pyridine (Wilde, et al. WO 99/01454, which is incorporated herein by reference) (5.0 g, 18.9 mmol) in DME/H2O, was added 2-chloro-4-difluoromethoxy-phenylboronic acid (Wilde, et al. WO 99/01454, which is incorporated by reference herein in its entirety) (4.20 g, 18.9 mmol), Ba(OH)2 8H2O (5.96 g, 18.9 mmol), and Pd(PPh3)2Cl2 (0.769 g, 1.10 mmol) were treated as in Part A of Example 113 to give 5.40 g (70%) of 2-benzyloxy-4-(2-chloro-4-difluoromethoxy-phenyl)-3-nitro-pyridine as a viscous oil. The crude intermediate was used in the following step.

reactant | 2-benzyloxy-4-chloro-3-nitro-pyridine | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])Cl | C12H9ClN2O3
reactant | 2-chloro-4-difluoromethoxy-phenylboronic acid | 18.9 mmol, 4.20 g | ClC1=C(C=CC(=C1)OC(F)F)B(O)O | C7H6BClF2O3
solvent | DME H2O | COCCOC.O
catalyst | Pd(PPh3)2Cl2 | 1.10 mmol, 0.769 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-benzyloxy-4-(2-chloro-4-difluoromethoxy-phenyl)-3-nitro-pyridine | 5.40 g, 70% | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)OC(F)F)Cl | C19H13ClF2N2O4
